US08471005B2
7-(3-Chloro-phenyl)-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine (125.0 mg, 0.0004284 mol), N,N-Diisopropylethylamine (0.112 mL, 0.000643 mol) and 4-Pyrrolidin-1-yl-phenylamine (139 mg, 0.000857 mol) were dissolved in 2-Methoxyethanol (3.01 mL) and The reaction was microwaved on 300 watts, 180° C. for 40 minutes or until HPLC showed consumption of starting material. The reaction mixture was then reduced en vacuo and the product was isolated and purified by Gilson prep HPLC to afford 26.91 mg of [7-(3-Chloro-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(4-pyrrolidin-1-yl-phenyl)-amine as a lyophilized powder. (M+H)=390.09. 1H NMR (400 MHz, CDCl3) δ 9.63 (s, 1H), 8.63 (s, 1H), 8.32 (s, 1H), 7.84 (m, 1H), 7.76 (d, 2H, J=8.93 Hz), 7.48 (m, 2H), 7.34 (d, 2H, J=8.93 Hz), 7.21 (m, 1H), 7.18 (m, 1H), 3.66 (m, 4H), 2.25 (m, 4H).

reactant | 7-(3-Chloro-phenyl)-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine | 0.0004284 mol, 125.0 mg | ClC=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)S(=O)C | C13H10ClN3OS
reactant | N,N-Diisopropylethylamine | 0.000643 mol, 0.112 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-Pyrrolidin-1-yl-phenylamine | 0.000857 mol, 139 mg | N1(CCCC1)C1=CC=C(C=C1)N | C10H14N2
solvent | 2-Methoxyethanol | 3.01 mL | COCCO | C3H8O2
product | [7-(3-Chloro-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(4-pyrrolidin-1-yl-phenyl)-amine | 26.91 mg | ClC=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCCC2 | C22H20ClN5
